US04355164
A mixture of 2.4 g (0.009 mol) of 3-carboxy-4-hydroxy-7-methylpyrido[3',2':4,5]-thieno[3,2-C]pyridazine in 70 ml of Dowtherm-A was stirred at 225° C. for 30 minutes. It was cooled, diluted with hexane and filtered. The crude product was crystallized by 5% NaOH/HOAC giving 1.3 g (65%) of 4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-C]pyridazine, m.p.>300° C.

reactant | 3-carboxy-4-hydroxy-7-methylpyrido[3',2':4,5]-thieno[3,2-C]pyridazine | 0.009 mol, 2.4 g | C(=O)(O)C1=C(C2=C(N=N1)C1=C(S2)N=C(C=C1)C)O | C11H7N3O3S
solvent | Dowtherm-A | 70 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | hexane | CCCCCC | C6H14
product | 4-hydroxy-7-methylpyrido[3',2':4,5]thieno[3,2-C]pyridazine | 1.3 g, 65% | OC=1C2=C(N=NC1)C1=C(S2)N=C(C=C1)C | C10H7N3OS
